US04298741
To an ice-cold solution of benzyl 6-amino-3-chloro-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate (0.2 mmol) in methylene chloride (2 ml) containing anhydrous pyridine (0.1 ml) is added α-azidophenylacetyl chloride (0.2 mmol). After stirring in the cold for 60 mins, the solution is washed with water, pH 3 phosphate buffer, 5% sodium bicarbonate solution and brine, dried with magnesium sulfate, filtered, and evaporated under vacuum to give benzyl 6-(α-azido-phenylacetamido)-3-chloro-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate.

reactant | benzyl 6-amino-3-chloro-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate | 0.2 mmol | NC1C2CC(=C(N2C1=O)C(=O)OCC1=CC=CC=C1)Cl | C14H13ClN2O3
reactant | pyridine | 0.1 ml | N1=CC=CC=C1 | C5H5N
reactant | α-azidophenylacetyl chloride | 0.2 mmol | N(=[N+]=[N-])C(C(=O)Cl)C1=CC=CC=C1 | C8H6ClN3O
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
product | benzyl 6-(α-azido-phenylacetamido)-3-chloro-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate | N(=[N+]=[N-])C(C(=O)NC1C2CC(=C(N2C1=O)C(=O)OCC1=CC=CC=C1)Cl)C1=CC=CC=C1 | C22H18ClN5O4
